US08115011B2
Preparation of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{1-[4-(1H-tetrazol-5-yl)-cyclohexanecarbonyl]-piperidin-4-yl}-phenyl)-amide
With a procedure similar to example 1,2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{1-[4-(1H-tetrazol-5-yl)-cyclohexanecarbonyl]-piperidin-4-yl}-phenyl)-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (212 mg, 0.51 mmol) and 4-(1H-tetrazol-5-yl)-cyclohexanecarboxylic acid (100 mg, 0.51 mmol) as an off white solid (147 mg, 49%). LCMS calcd for C30H30F3N7O3 (m/e) 593, obsd 594 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.51 mmol, 212 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O2
reactant | 4-(1H-tetrazol-5-yl)-cyclohexanecarboxylic acid | 0.51 mmol, 100 mg | N1N=NN=C1C1CCC(CC1)C(=O)O | C8H12N4O2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{1-[4-(1H-tetrazol-5-yl)-cyclohexanecarbonyl]-piperidin-4-yl}-phenyl)-amide | N1N=NN=C1C1CCC(CC1)C(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C30H30F3N7O3
